US04985432
Twenty-four (24) grams of 2-benzylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was suspended in 250 ml of acetic acid and warmed to 40° C. To this suspension, 7.9 g of fuming nitric acid was added dropwise. After the addition of the nitric acid was finished, the reaction mixture was stirred at 40° C. for 5 hours. After the reaction was finished, the reaction mixture was cooled, and water was added thereto. The deposited crystals were collected by filtration, washed with water and dried under reduced pressure. Thus 24 g of 2-benzylthio-7-hydroxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one was obtained. Yield 87%.

reactant | 2-benzylthio-7-hydroxy-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | C(C1=CC=CC=C1)SC1=NN2C(=NC(=CC2=O)O)S1 | C12H9N3O2S2
reactant | nitric acid | 7.9 g | [N+](=O)(O)[O-] | HNO3
reactant | water | O | H2O
solvent | acetic acid | 250 ml | C(C)(=O)O | C2H4O2
product | 2-benzylthio-7-hydroxy-6-nitro-5H-1,3,4-thiadiazolo[3,2-a]pyrimidin-5-one | 24 g, Yield 87% | C(C1=CC=CC=C1)SC1=NN2C(=NC(=C(C2=O)[N+](=O)[O-])O)S1 | C12H8N4O4S2
